US09403805B2
(2S,4S)-4-amino-2-(5-phenyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester was prepared from (2S,4R)-4-tert-butoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester in a similar reaction sequence used in the preparation of (2S,4S)-4-amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester. MS calcd. for C21H22N3O3 [(M+H)+] 364, obsd. 364.

reactant | (2S,4R)-4-tert-butoxy-pyrrolidine-1,2-dicarboxylic acid 1-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC(C)(C)C)C(=O)O | C17H23NO5
reactant | (2S,4S)-4-amino-2-oxazol-2-yl-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)N)C=1OC=CN1 | C15H17N3O3
product | (2S,4S)-4-amino-2-(5-phenyl-oxazol-2-yl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H](C1)N)C=1OC(=CN1)C1=CC=CC=C1 | C21H21N3O3
